US07282588B2
N,N-dimethyl-1-(4-{4-[1-(1-methylethyl)-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridin-2-yl}phenyl)methanamine
Following the procedure described in Intermediate 100 and Intermediate 21 using N,N-dimethyl-1-{4-[1-(phenylsulfonyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridin-2-yl]phenyl}methanamine and 4-bromo-1-(1-methylethyl)-3-(4-nitrophenyl)-1H-pyrazole provided the title compound. ESMS [M+H]+: 481.4

reactant | N,N-dimethyl-1-{4-[1-(phenylsulfonyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridin-2-yl]phenyl}methanamine | CN(CC1=CC=C(C=C1)C1=CC=2C(=NC=CC2B2OC(C(O2)(C)C)(C)C)N1S(=O)(=O)C1=CC=CC=C1)C | C28H32BN3O4S
reactant | 4-bromo-1-(1-methylethyl)-3-(4-nitrophenyl)-1H-pyrazole | BrC=1C(=NN(C1)C(C)C)C1=CC=C(C=C1)[N+](=O)[O-] | C12H12BrN3O2
product | N,N-dimethyl-1-(4-{4-[1-(1-methylethyl)-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridin-2-yl}phenyl)methanamine | CN(CC1=CC=C(C=C1)C1=CC=2C(=NC=CC2C=2C(=NN(C2)C(C)C)C2=CC=C(C=C2)[N+](=O)[O-])N1)C | C28H28N6O2
